US06348474B1
5-Bromo-2-ethylbenzo[b]furan
2-Acetyl-5-bromobenzo[b]furan (10.00 g) and hydrazine monohydrate (8.00 g) were stirred in ethylene glycol (60 ml) at 150° C. for 2 hr. After cooling, potassium hydroxide (9.00 g) was added and the mixture was stirred at 150° C. for 2 hr. After cooling, toluene (200 ml) and water (100 ml) were added and the separated toluene layer was washed with 10% aqueous solution (100 ml) of ammonium chloride, dried over magnesium sulfate and concentrated to give the objective compound (8.30 g).

reactant | 2-Acetyl-5-bromobenzo[b]furan | 10.00 g | C(C)(=O)C1=CC2=C(O1)C=CC(=C2)Br | C10H7BrO2
reactant | hydrazine monohydrate | 8.00 g | O.NN
reactant | potassium hydroxide | 9.00 g | [OH-].[K+]
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethylene glycol | 60 ml | C(CO)O | C2H6O2
solvent | water | 100 ml | O | H2O
product | 5-Bromo-2-ethylbenzo[b]furan | 8.30 g | BrC1=CC2=C(OC(=C2)CC)C=C1 | C10H9BrO
